US06218397B1
3-{Benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3.4-d]pyrimidin-4-yl]-amino}-propan-1-ol methylcarbamate.
A solution of 3-{benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amino}-propan-1-ol (100 mg, 0.191 mmol) in 2 ml of dry THF was treated with 6 mg of 60% sodium hydride in oil and methyl isocyanate (39 mg, 6.78 mmol) at room temperature and stirred at room temperature for 10 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 110 mg of white form. The form was purified through silica gel column chromatography to give 79 mg of the title compound as a white glass form. 1H NMR (CDCl3): 2.03(m,2H), 2.51(s,3H), 2.59(s,3H), 2.77(d,3H), 3.79(t,2H), 4.12(t,2H), 4.50(brs,1H), 5.17(s,2H), 7.2-7.45(m,5H), 7.51(s,2H)ppm.

reactant | 3-{benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]amino}-propan-1-ol | 0.191 mmol, 100 mg | C(C1=CC=CC=C1)N(CCCO)C1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl | C23H22Cl3N5OS
reactant | sodium hydride | 6 mg | [H-].[Na+]
reactant | methyl isocyanate | 6.78 mmol, 39 mg | CN=C=O | C2H3NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-{Benzyl-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3.4-d]pyrimidin-4-yl]-amino}-propan-1-ol methylcarbamate | 79 mg | CNC(=O)OCCCN(C1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl)CC2=CC=CC=C2 | C25H25Cl3N6O2S
